US04997840
A mixture of 2-[2-(N-ethylformamido)phenyl]-2- C oxoethyl benzoate (21.2 g), potassium carbonate (11.82 g) and dry dimethylformamide (330 ml) was stirred at 60° for 15 hours. The reaction mixture was filtered and the residue washed with dimethylformamide (150 ml). The combined filtrate and washings were evaporated under reduced pressure at 60° and the residue triturated with water (200 ml) and then with acetone (2×30 ml) to give the novel compound 1-ethyl-4-oxo-1,4-dihydroquinol-3-yl benzoate, m.p. 190°-192°.

reactant | 2-[2-(N-ethylformamido)phenyl]-2- C oxoethyl benzoate | 21.2 g | C(C1=CC=CC=C1)(=O)OCC(=O)C1=C(C=CC=C1)N(C=O)CC | C18H17NO4
reactant | potassium carbonate | 11.82 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 330 ml | CN(C=O)C | C3H7NO
product | 1-ethyl-4-oxo-1,4-dihydroquinol-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1=CN(C2=CC=CC=C2C1=O)CC | C18H15NO3
